US08497281B2
(cis-7-Amino-6-hydroxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-benzoimidazol-5-yl)-methanone
A mixture of (1H-benzoimidazol-5-yl)-(cis-6-hydroxy-7-nitro-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone (0.56 g), 10% palladium on carbon (50 mg), and methanol (10 mL) is shaken under hydrogen atmosphere (1 bar) at room temperature for 3 h. The catalyst is separated by filtration and the filtrate is concentrated. The residue is chromatographed (dichloromethane/methanol 7:3) to give the title compound. Yield: 0.32 g (63% of theory); LC (method 1): tR=0.65 min; Mass spectrum (ESI+): m/z=349 [M+H]+.

reactant | (1H-benzoimidazol-5-yl)-(cis-6-hydroxy-7-nitro-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone | 0.56 g | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=C(C(=CC2C1)[N+](=O)[O-])O | C20H18N4O4
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | (cis-7-Amino-6-hydroxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-benzoimidazol-5-yl)-methanone | NC1=CC=2C[C@@H]3N(CCC[C@@H]3C2C=C1O)C(=O)C1=CC2=C(NC=N2)C=C1 | C20H20N4O2
